US07741315B2
Step 12: 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-2-[4-(methylamino)butyl]-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
Methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-[4-(methylamino)butyl]-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (0.18 g, 0.38 mmol) and potassium hydroxide (0.17 g, 2.3 mmol) in a mixture of 1:1:1 v/v/v tetrahydrofuran-methanol-water (4.5 mL) was heated at 50° C. overnight. The reaction mixture was concentrated under vacuum. The residue was partitioned between dichloromethane and dilute hydrochloric acid. The aqueous extract was concentrated under vacuum to provide the title compound as hydrochloride salt. This was used in the following step without further purification. ES MS M+1=452

reactant | Methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-[4-(methylamino)butyl]-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 0.38 mmol, 0.18 g | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)CCCCNC)=O)O)=O)C=CC1F | C22H25ClFN3O5
reactant | potassium hydroxide | 2.3 mmol, 0.17 g | [OH-].[K+]
reactant | tetrahydrofuran-methanol water | 4.5 mL | O1C(CCC1)CO.O
product | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-2-[4-(methylamino)butyl]-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)O)CCCCNC)=O)O)=O)C=CC1F | C21H23ClFN3O5
